US07666888B2
N-Methyl-1-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}piperidine-4-carboxamide (BVT160878)
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and piperidine-4-carboxylic acid methylamide (8.5 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (5.1 mg). HRMS calcd for C18H21N3O3: 327.1583, found 327.1580.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | piperidine-4-carboxylic acid methylamide | 0.060 mmol, 8.5 mg | CNC(=O)C1CCNCC1 | C7H14N2O
product | N-Methyl-1-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}piperidine-4-carboxamide | CNC(=O)C1CCN(CC1)C(=O)C=1C=NOC1C1=CC=C(C=C1)C | C18H21N3O3
